US07544690B2
To a solution of trans-4-{[2,5-bis-(2,2,2-trifluoro-ethoxy)-benzenesulfonylamino]-methyl}-cyclohexanecarboxylic acid amide (2.7 g, 5.5 mmol) in THF (20 mL) was added a solution of 1 M BH3 in THF (20 mL, 20 mmol) over 40 min. The mixture was stirred at reflux for 2 hr. After cooling to 0° C., the mixture was quenched with water (7 mL). To the mixture were added 4 M HCl in EtOAc (28 mL) and MeOH (50 mL) and the mixture was concentrated. To the residue was added MeOH (50 mL) and the mixture was once again concentrated. The resulting HCl-salt was recrystallized from Et2O and subsequently neutralized with 1 M aqueous sodium hydroxide. The aqueous layer was extracted with CH2Cl2 (twice), the combined organic layers were dried over sodium sulfate, and concentrated under reduced pressure to give trans-N-(4-aminomethyl-cyclohexylmethyl)-2,5-bis-(2,2,2-trifluoro-ethoxy)-benzenesulfonamide as a white solid (1.5 g, 57%).

reactant | trans-4-{[2,5-bis-(2,2,2-trifluoro-ethoxy)-benzenesulfonylamino]-methyl}-cyclohexanecarboxylic acid amide | 5.5 mmol, 2.7 g | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)S(=O)(=O)NC[C@@H]1CC[C@H](CC1)C(=O)N)(F)F | C18H22F6N2O5S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mmol, 20 mL | C1CCOC1 | C4H8O
product | trans-N-(4-aminomethyl-cyclohexylmethyl)-2,5-bis-(2,2,2-trifluoro-ethoxy)-benzenesulfonamide | 1.5 g, 57% | NC[C@@H]1CC[C@H](CC1)CNS(=O)(=O)C1=C(C=CC(=C1)OCC(F)(F)F)OCC(F)(F)F | C18H24F6N2O4S
